US07855194B2
Step 1: 4-Chloro-3,5-diethoxy-benzoic acid ethyl ester
To a solution of 4-amino-3,5-diethoxy-benzoic acid ethyl ester (5.1 g, 20.13 mmol, 1.0 equiv; prepared as described in I. Kompis and A. Wick Helv. Chim. Acta 1977, 60, 3025-3034) in water (40 mL) and 37% HCl (40 mL) at 0° C. was added sodium nitrite (1.67 g, 24.16 mmol, 1.2 equiv). After 10 min copper(I) chloride (12.0 g, 120.81 mmol, 6.0 equiv) was added, the reaction mixture stirred for an additional 5 h at 0° C. and then the ice bath was removed. After stirring for 18 h, the crude reaction mixture was adjusted to pH=8 by addition of a solution of 1 M NaOH and the aqueous layer extracted with ethyl acetate (3×100 mL). The combined organic phases were dried over MgSO4, concentrated by evaporation under reduced pressure and the crude material purified by silica column chromatography using a MPLC system (CombiFlash Companion, Isco Inc.) eluting with a gradient of heptane/ethyl acetate providing 5.0 g (91%) of the title compound. 1H NMR (300 MHz, CDCl3): δ 1.32 (t, J=7.0 Hz, 4H), 1.40 (t, J=7.0 Hz, 6H), 4.09 (q, J=7.0 Hz, 4H), 4.30 (q, J=7.0 Hz, 2H), 7.18 (s, 2H). 13C NMR (75 MHz, CDCl3): δ 13.33, 13.66, 60.29, 64.16, 105.75, 115.88, 128.25, 154.49, 165.01. MS (ISP): 273.3 [M+H]+.

reactant | 4-amino-3,5-diethoxy-benzoic acid ethyl ester | C(C)OC(C1=CC(=C(C(=C1)OCC)N)OCC)=O | C13H19NO4
reactant | HCl | 40 mL | Cl | ClH
reactant | sodium nitrite | 24.16 mmol, 1.67 g, 1.2 equiv | N(=O)[O-].[Na+]
reactant | NaOH | 1 M | [OH-].[Na+]
solvent | water | 40 mL | O | H2O
catalyst | copper(I) chloride | 120.81 mmol, 12.0 g, 6.0 equiv | [Cu]Cl
product | 4-Chloro-3,5-diethoxy-benzoic acid ethyl ester | C(C)OC(C1=CC(=C(C(=C1)OCC)Cl)OCC)=O | C13H17ClO4
